US06313312B1
N-{3-[6-Methyl-3-(4-phenylbutanoyl)-3-azabicyclo[3.1.0]hex-6-yl]phenyl}methanesulfonamide
To a solution of 4-phenylbutanoic acid (219 mg, 1.33 mmol) in N,N-dimethylformamide (20 ml) was added 1-hydroxybenzotriazole monohydrate (225 mg, 1.48 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (382 mg, 1.98 mmol). After stirring at room temperature for 15 min the mixture was treated with the hydrochloride salt of N-[3-(6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenyl]methanesulfonamide (Preparation 53, 449 mg, 1.48 mmol) and sodium hydrogen carbonate (225 mg, 2.7 mmol). The reaction mixture was stirred at room temperature for overnight before concentrating in vacuo. Water (15 ml) was added and the reaction mixture was extracted with ethyl acetate (20, 15 ml). The combined organic extracts were washed with water (15 ml), dried (MgSO4), filtered and concentrated in vacuo to give a colourless oil (540 mg). This was purified by chromatography using a Biotage Flash 12™ cartridge packed with silica gel (8 g) eluting with hexane:ethyl acetate (100:0 to 0:100 over 30 min) and then with ethyl acetate:methanol (100:0 to 0:100 over 5 min) to afford the title compound as a colourless glass (360 mg, 59%).

reactant | 4-phenylbutanoic acid | 1.33 mmol, 219 mg | C1(=CC=CC=C1)CCCC(=O)O | C10H12O2
reactant | 1-hydroxybenzotriazole monohydrate | 1.48 mmol, 225 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.98 mmol, 382 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-[3-(6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenyl]methanesulfonamide | 1.48 mmol, 449 mg | CC1(C2CNCC12)C=1C=C(C=CC1)NS(=O)(=O)C | C13H18N2O2S
reactant | sodium hydrogen carbonate | 2.7 mmol, 225 mg | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-{3-[6-Methyl-3-(4-phenylbutanoyl)-3-azabicyclo[3.1.0]hex-6-yl]phenyl}methanesulfonamide | 540 mg | CC1(C2CN(CC12)C(CCCC1=CC=CC=C1)=O)C=1C=C(C=CC1)NS(=O)(=O)C | C23H28N2O3S
